US04521325
To 7.61 g (0.1 moles) 2-hydroxyethylhydrazine in 150 mL tetrahydrofuran was added dropwise over a period of about 1/2 hour with stirring 9.91 g (0.1 mole) butylisocyanate in 50 mL tetrahydro-furan. At the end of the addition period stirring was continued until the solution cooled to room temperature. A small amount of precipitate was removed by filtration, and the solvent was evaporated to yield a viscous pale oil, N-butyl-1-(2-hydroxyethyl)hydrazinecarboxamide quantitatively. This structure was confirmed by NMR analysis.

reactant | 2-hydroxyethylhydrazine | 0.1 moles, 7.61 g | OCCNN | C2H8N2O
reactant | butylisocyanate | 0.1 mole, 9.91 g | C(CCC)N=C=O | C5H9NO
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydro-furan | 50 mL | O1CCCC1 | C4H8O
product | N-butyl-1-(2-hydroxyethyl)hydrazinecarboxamide | C(CCC)NC(=O)N(N)CCO | C7H17N3O2
